US07732463B2
To a stirred solution of tris(dibenzylidene)dipalladium(0) (Pd2dba3, 0.183 g, 0.2 mmol) and bis(2-diphenylphosphinophenyl)ether (DPEphos, 0.215 g, 0.2 mmol) in toluene (80 mL) was added 3-bromo-4-iodobenzotrifluoride (7.02 g, 20 mmol; prepared from 2-bromo-4-trifluoromethyl-phenylamine by diazotization according to the general procedure by Tunney and Stille J. Org. Chem. 1987, 52, 748-753), 4-chlorothiophenol (2.89 g, 20 mmol) and potassium tert-butoxide (2.46 g, 22 mmol) at room temperature (rt). The reaction mixture was stirred for 2.5 h at 100° C. and then cooled to room temperature (rt) and filtered through celite. The solvent was evaporated off and the crude product was purified by flash chromatography on silica gel (eluent: ethyl acetate/heptane 2:8) to produce 4.53 g (81%) of 1-bromo-2-(4-chloro-phenylsulfanyl)-5-(trifluoromethyl)-benzene as an oil.

reactant | 3-bromo-4-iodobenzotrifluoride | BrC=1C=C(C=CC1I)C(F)(F)F | C7H3BrF3I
reactant | 2-bromo-4-trifluoromethyl-phenylamine | BrC1=C(C=CC(=C1)C(F)(F)F)N | C7H5BrF3N
reactant | 4-chlorothiophenol | 20 mmol, 2.89 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium tert-butoxide | 22 mmol, 2.46 g | CC(C)([O-])C.[K+]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
catalyst | bis(2-diphenylphosphinophenyl)ether | 0.2 mmol, 0.215 g | C1(=CC=CC=C1)P(C1=C(C=CC=C1)OC1=C(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H28OP2
product | 1-bromo-2-(4-chloro-phenylsulfanyl)-5-(trifluoromethyl)-benzene | 4.53 g, 81% | BrC1=C(C=CC(=C1)C(F)(F)F)SC1=CC=C(C=C1)Cl | C13H7BrClF3S
